US06110922
1-Chloro-2-nitro-4-(E-((4-acetylpiperazin-1-yl)carbonyl)ethenyl)benzene
To a stirred solution of trans-4-chloro-3-nitrocinnamic acid (1.50 g, 6.59 mmol) and 1-acetylpiperazine (0.89 g, 6.94 mmol) in 20 mL of DMF at room temperature was added EDAC (1.4 g, 7.30 mmol). The mixture was then stirred at room temperature for 2 hours. TLC indicated the complete consumption of the acid. Water was then added to quench the reaction and to precipitate out the product. Cinnamide was then collected through filtration and washed with cold water. The light yellow product was dried in vacuum oven overnight at 40° C. to give 2.04 g (6.03 mmol, 91.6%) of the title compound.

reactant | trans-4-chloro-3-nitrocinnamic acid | 6.59 mmol, 1.50 g | ClC1=C(C=C(/C=C/C(=O)O)C=C1)[N+](=O)[O-] | C9H6ClNO4
reactant | 1-acetylpiperazine | 6.94 mmol, 0.89 g | C(C)(=O)N1CCNCC1 | C6H12N2O
reactant | EDAC | 7.30 mmol, 1.4 g | CCN=C=NCCCN(C)C | C8H17N3
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 1-Chloro-2-nitro-4-(E-((4-acetylpiperazin-1-yl)carbonyl)ethenyl)benzene | 6.03 mmol, 2.04 g, 91.6% | ClC1=C(C=C(C=C1)\C=C\C(=O)N1CCN(CC1)C(C)=O)[N+](=O)[O-] | C15H16ClN3O4
